US07465726B2
3-(1-Methylpiperidin-4-yl)phenylamine
A dried flask was charged with tert-butyl 4-(3-aminophenyl)piperidine-1-carboxylate (0.553 g, 2.00 mmol). Lithium aluminium hydride (1M in THF, 10 mL, 10.0 mmol) was added slowly through a syringe under N2. The resulting mixture was stirred overnight at rt. Water (0.5 mL) was cautiously added to quench the reaction. The resulting mixture was filtered. The filtrate was concentrated to dryness to give the title compound as a white solid, which was used without further purification in the next step. 1H-NMR (CDCl3, 400 MHz): δ=1.80-1.85 (m, 2H), 2.04 (dt, J=4.0, 11.6 Hz, 2H), 2.33 (s, 3H), 2.40 (m, 1H), 2.98 (m, 2H), 3.64 (s, br, 2H), 6.54-6.59 (m, 2H), 6.66 (d, J=7.6 Hz, 1H), 7.10 (t, J=7.6 Hz, 1H). MS (ES+): m/z 191.26 [MH+]. HPLC: tR=0.49 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-(3-aminophenyl)piperidine-1-carboxylate | 2.00 mmol, 0.553 g | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | Lithium aluminium hydride | 10.0 mmol, 1M, 10 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | Water | 0.5 mL | O | H2O
product | 3-(1-Methylpiperidin-4-yl)phenylamine | CN1CCC(CC1)C=1C=C(C=CC1)N | C12H18N2
